US04042610
Neopentylzirconium tris(dimethylamide)
A solution of 0.50 g of neopentyllithium in hexane was added to a hot solution of zirconium tetrakis(dimethylamide) in hot hexane with stirring. Lithium dimethylamide precipitated immediately. The total amount of hexane in the reaction mixture was about 50-100 ml. The mixture was cooled and filtered, and the filtrate was evaporated to give a sticky solid. The latter was dissolved in pentane, and the solution was kept at -40° C. for 2 days. During this time yellow crystals of neopentylzirconium tris(dimethylamide) separated. They were isolated by filtration and dried; yield 0.5 g. Nmr in C6D6 : δ (NMe) 2.92, δ (CH2) 0.9, δ (CMe3) 1.20 ppm downfield from tetramethylsilane.

reactant | neopentyllithium | 0.50 g | C(C(C)(C)C)[Li]
reactant | zirconium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Zr+4]
solvent | hexane | CCCCCC | C6H14
solvent | pentane | CCCCC | C5H12
product | Neopentylzirconium tris(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C(C(C)(C)C)[Zr+3] | InChI=1S/C5H11.3C2H6N.Zr/c1-5(2,3)4;3*1-3-2;/h1H2,2-4H3;3*1-2H3;/q;3*-1;+3
